US07449456B2
1-(4-Nitrophenyl)piperazine and N-(3-bromopropyl)phthalimide were allowed to undergo the reaction under heating in 1-methyl-2-pyrrolidone in the presence of potassium carbonate. The resulting compound was allowed to react with hydrazine monohydrate in THF. The resulting compound and di-tert-butyl dicarbonate were allowed to undergo the reaction in THF. The resulting compound was subjected to catalytic hydrogenation in the same manner as shown in Reference Example 3 to obtain tert-butyl{3-[4-(4-aminophenyl)-piperazin-1-yl]propyl}carbamate. F: 335.

reactant | 1-(4-Nitrophenyl)piperazine | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
reactant | N-(3-bromopropyl)phthalimide | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | hydrazine monohydrate | O.NN
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1-methyl-2-pyrrolidone | CN1C(CCC1)=O | C5H9NO
solvent | THF | C1CCOC1 | C4H8O
product | tert-butyl{3-[4-(4-aminophenyl)-piperazin-1-yl]propyl}carbamate | C(C)(C)(C)OC(NCCCN1CCN(CC1)C1=CC=C(C=C1)N)=O | C18H30N4O2
